US05932576
A solution of 4-(4-fluorophenyl)-5-(4-pyridinyl)-1H-pyrazol-3-amine prepared as set forth in Example 2 (100 mg, 0.38 mmol), methyl isocyanate (22 mg, 0.39 mmol) and 4-dimethylaminopyridine (2.5 mg) in methylene chloride (10 ml) was stirred at room temperature for 30 minutes. The reaction was stripped in vacuo. The residue was triturated with hexane and the solid filtered to give pure N-[4-(4-fluorophenyl)-5-(4-pyridinyl)-1H-pyrazol-3-yl]-N'-methylurea, m. p. 212-213° C.

reactant | 4-(4-fluorophenyl)-5-(4-pyridinyl)-1H-pyrazol-3-amine | FC1=CC=C(C=C1)C=1C(=NNC1C1=CC=NC=C1)N | C14H11FN4
reactant | methyl isocyanate | 0.39 mmol, 22 mg | CN=C=O | C2H3NO
catalyst | 4-dimethylaminopyridine | 2.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(4-fluorophenyl)-5-(4-pyridinyl)-1H-pyrazol-3-yl]-N'-methylurea | FC1=CC=C(C=C1)C=1C(=NNC1C1=CC=NC=C1)NC(=O)NC | C16H14FN5O
